US09388189B2
a) 2,4-Dimethoxy-N-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)benzenesulfonamide
3-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (450 mg, 2.05 mmol, prepared as described at Wing Kin Chow et al. Chemistry—A European Journal, 2011, 17(25), 6913-6917) was treated with 2,4-dimethoxybenzene-1-sulfonyl chloride (850 mg, 3.5 mmol) according to the method described in Preparation 15b to give 568 mg (77% yield) of the title compound as an oil. Purity 99%.

reactant | 3-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 2.05 mmol, 450 mg | CC1(OB(OC1(C)C)C=1C=C(N)C=CC1)C | C12H18BNO2
reactant | 2,4-dimethoxybenzene-1-sulfonyl chloride | 3.5 mmol, 850 mg | COC1=C(C=CC(=C1)OC)S(=O)(=O)Cl | C8H9ClO4S
product | 2,4-Dimethoxy-N-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)benzenesulfonamide | 568 mg, 77% yield | COC1=C(C=CC(=C1)OC)S(=O)(=O)NC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C20H26BNO6S
